US04372953
20% Hydrochloric acid (30 ml) is added to methyl 4-(5-methyl-1,2,3,4-tetrazol-1-yl)butyrate (5.5 g) and the mixture is refluxed for 2 hour. The mixture is concentrated to dryness under reduced pressure. Acetone and benzene are added to the residue and water is removed by azeotropic distillation to obtain 4-(5-methyl-1,2,3,4-tetrazol-1-yl)butyric acid (4.7 g) as colorless liquid.

reactant | methyl 4-(5-methyl-1,2,3,4-tetrazol-1-yl)butyrate | 5.5 g | CC1=NN=NN1CCCC(=O)OC | C7H12N4O2
solvent | Hydrochloric acid | 30 ml | Cl | ClH
product | 4-(5-methyl-1,2,3,4-tetrazol-1-yl)butyric acid | 4.7 g | CC1=NN=NN1CCCC(=O)O | C6H10N4O2
